US04788130
200 Grams of 6-chloroacetylaminomethyl-2,3-dihydro-7-hydroxy-4-methyl-1H-indene-1-one, 77.9 g of hydroxylamine hydrochloride, 300 ml of pyridine and 1,800 ml of ethanol were refluxed for 3 hours. After the reaction was completed, the solvent was removed by evaporation under a reduced pressure, then to the residue thus obtained was added 2 liters of water and the mixture was stirred vigorously, cooled and crystallized. The crystals were collected by filtration, washed with water, and recrystallized from water to obtain 167 g of (2,3-dihydro-7-hydroxy-1-hydroxyimino-4-methyl-1H-indene-6-yl)-methylaminocarbonylmethylpyridinium chloride. Colorless flake-like crystals. Melting point: 279° C. (Decomposed).

reactant | 6-chloroacetylaminomethyl-2,3-dihydro-7-hydroxy-4-methyl-1H-indene-1-one | ClCC(=O)NCC1=CC(=C2CCC(C2=C1O)=O)C | C13H14ClNO3
reactant | hydroxylamine hydrochloride | 77.9 g | Cl.NO
reactant | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 1,800 ml | C(C)O | C2H6O
reactant | water | 2 liters | O | H2O
product | (2,3-dihydro-7-hydroxy-1-hydroxyimino-4-methyl-1H-indene-6-yl)-methylaminocarbonylmethylpyridinium chloride | 167 g | [Cl-].OC=1C(=CC(=C2CCC(C12)=NO)C)C1=[N+](C=CC=C1)CC(=O)NC | InChI=1S/C18H19N3O3.ClH/c1-11-9-13(18(23)17-12(11)6-7-14(17)20-24)15-5-3-4-8-21(15)10-16(22)19-2;/h3-5,8-9H,6-7,10H2,1-2H3,(H2,19,22,24);1H
